US08859591B2
Intermediate (51): 1-(4-nitrophenyl)-4-(trifluoromethyl)-1H-pyrazole
The title compound was prepared by a method analogous to that described for Intermediate (3), using 1-fluoro-4-nitrobenzene and 4-(trifluoromethyl)-1H-pyrazole. 1H NMR (400 MHz, CDCl3, δ): 8.38 (m, 1H), 8.30 (m, 1H), 7.97 (s, 2H), 7.90 (m, 2H).

reactant | 1-fluoro-4-nitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-(trifluoromethyl)-1H-pyrazole | FC(C=1C=NNC1)(F)F | C4H3F3N2
product | 1-(4-nitrophenyl)-4-(trifluoromethyl)-1H-pyrazole | [N+](=O)([O-])C1=CC=C(C=C1)N1N=CC(=C1)C(F)(F)F | C10H6F3N3O2
